US04278793
7-Amino-3-(4,6-diamino-pyrimidin-2-yl-thiomethyl)-ceph-3-em-4-carboxylic acid dihydrate
2.7 g (0.01 mole) of 7-aminocephalosporanic acid are dissolved in 50 ml of water with the required amount of sodium bicarbonate. 1.7 g (0.013 mole) of 4,6-diamino-2-mercaptopyrimidine and the equivalent amount of sodium bicarbonate are added and the reaction solution is heated to 60° C. for 4 hours, whilst stirring and keeping the pH value constant (pH=7). The mixture is allowed to cool, undissolved material is filtered off and the filtrate is concentrated in vacuo at 30° C. to half its volume. The aqueous solution which remains is extracted several times with ethyl acetate and the aqueous phase is adjusted to a pH of 2 with 2 N hydrochloric acid. The precipitate is filtered off, washed with water until free from chloride and dried in vacuo at 37° C. over potassium hydroxide. 1.61 g of the title compound are obtained. Rf : 0.27 (acetone:glacial acetic acid =10:1) IR (KBr): 1,745 cm-1 (β-lactam band) NMR (d6 -DMSO, 60 MHz):

reactant | 7-aminocephalosporanic acid | 0.01 mole, 2.7 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 4,6-diamino-2-mercaptopyrimidine | 0.013 mole, 1.7 g | NC1=NC(=NC(=C1)N)S | C4H6N4S
solvent | water | 50 ml | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 7-Amino-3-(4,6-diamino-pyrimidin-2-yl-thiomethyl)-ceph-3-em-4-carboxylic acid dihydrate | 1.61 g | O.O.NC1[C@@H]2N(C(=C(CS2)CSC2=NC(=CC(=N2)N)N)C(=O)O)C1=O | InChI=1S/C12H14N6O3S2.2H2O/c13-5-1-6(14)17-12(16-5)23-3-4-2-22-10-7(15)9(19)18(10)8(4)11(20)21;;/h1,7,10H,2-3,15H2,(H,20,21)(H4,13,14,16,17);2*1H2/t7?,10-;;/m1../s1
